US06465472B1
3,4-(Methylenedioxy)-2-amino-4′,5′-(methylenedioxy)benzophenone 15.0 g, 52.63 mmol) was dissolved in AcOH (250 mL) by heating, then sodium cyanate (4.1 g, 63.16 mmol) and water (25 mL) was added. The resulting mixture was stirred at rt for 18 h, then excess water (120 mL) was added. The precipitate was collected by filtration, washed with water, acetone, and dried to give 6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazolin-2(1H)-one as yellow solid (15.7 g); mp >300° C. 1H NMR (DMSO) 7.18 (s, 1H), 7.14 (d, J=9.12, 1H), 7.07 (d, J=7.95, 1H), 7.04 (s, 1H), 6.82 (s, 1H), 6.16 (s, 2H), 6.14 (s, 2H), 1.90 (s, 1H). Anal. calcd. for C16H10N2O5(1/4)H2O: C, 60.99, H, 3.34, N, 8.90. Found: C, 60.92, H, 3.14, N, 8.47.

reactant | 3,4-(Methylenedioxy)-2-amino-4′,5′-(methylenedioxy)benzophenone | 52.63 mmol, 15.0 g | C1OC=2C(=C(C(=O)C3=CC=C4C(=C3)OCO4)C=CC2O1)N | C15H11NO5
reactant | sodium cyanate | 63.16 mmol, 4.1 g | [O-]C#N.[Na+]
reactant | water | 25 mL | O | H2O
reactant | water | 120 mL | O | H2O
solvent | AcOH | 250 mL | CC(=O)O | C2H4O2
product | 6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazolin-2(1H)-one | 15.7 g | C1OC=2C=C3C(=NC(NC3=CC2O1)=O)C1=CC2=C(C=C1)OCO2 | C16H10N2O5
